US07452901B2
A mixture of 2-[4-(diethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester (33 mg, 0.063 mmol) and lithium hydroxide (44 mg) in a mixed solvent of THF (6 mL) and water (1 mL) was stirred at room temperature for 6 h. The organic solvent was removed and the residue was partitioned between ethyl acetate and 5% aqueous sodium bicarbonate. The aqueous layer was acidified with 2 N HCl and extracted with ethyl acetate. The ethyl acetate extract was concentrated, affording 2-[4-(diethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid as an oil (30 mg, 100%); 1H NMR (300 MHz, CDCl3) δ 1.27 (m, 6H), 1.79 (s, 3H), 2.0-2.7 (m, 8H), 3.37 (d, J=6.6 Hz), 3.75 (s, 3H), 4.08 m, 4H), 5.19 (s, 2H), 5.25 (m, 1H), 5.44 (m, 1H), 5.55 (m, 1H), 5.45 (m, 2H).

reactant | 2-[4-(diethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester | 0.063 mmol, 33 mg | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)CC=CCP(=O)(OCC)OCC)=O | C26H37O9P
reactant | lithium hydroxide | 44 mg | [OH-].[Li+]
reactant | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 2-[4-(diethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid | 30 mg, 100% | C(C)OP(=O)(OCC)CC=CCC(C(=O)O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C25H35O9P
